US20010047099A1
A. Methyl 4,6-dibromo-3-methoxypyridine-2-carboxylate
To methyl 4,6-dibromo-3-hydroxypyridine-2-carboxylate 3.98 g (3.98 g, 12.81 mmol) in 40 mL of acetone was added K2CO3 (2.0 g, 14.47 mmol) and dimethyl sulfate (1.20 mL, 12.37 mmol). The reaction mixture was refluxed overnight and concentrated to dryness. The residue was dissolved in ethyl acetate and saturated sodium bicarbonate. The phases were separated and the aqueous phase was extracted with ethyl acetate (3×100 mL). The combined extracts were dried (MgSO4) and concentrated to dryness. The residue was purified by chromatography (silica gel). Elution with 15% ethyl acetate/hexane gave 0.980 g, of a white solid. 1H NMR(CDCl3): δ 3.95 (s, 3H); 3.90 (s, 3H); 7.80 (s, 1H).

reactant | methyl 4,6-dibromo-3-hydroxypyridine-2-carboxylate | 12.81 mmol, 3.98 g | BrC1=C(C(=NC(=C1)Br)C(=O)OC)O | C7H5Br2NO3
reactant | K2CO3 | 14.47 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | 12.37 mmol, 1.20 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | Methyl 4,6-dibromo-3-methoxypyridine-2-carboxylate | BrC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H7Br2NO3
